US06949576B2
2,4-Dimethylthiophene-3-carboxylic acid
n-Butyllithium (2.5 M in hexanes, 18.6 mL, 46 mmol) was added to a pre-cooled solution of 4-methylthiophene-3-carboxylic acid (3.0 g, 21 mmol) in dry tetrahydrofuran (THF, 35 mL) at −62° C. The reaction mixture was stirred at −78° C. for an hour, allowed to warm to −40° C. and re-cooled to −78° C. before adding iodomethane (3.28 mL, 7.49 g, 53 mmol). After addition, the reactants were stirred at −78° C. for an hour and then allowed to warm to room temperature over 14 hours and quenched with water (20 mL). The organic phase was extracted with dilute sodium hydroxide (0.2 N, 3×30 mL). The combined aqueous extracts were washed with ether (2×30 mL), cooled in an ice bath and acidified to pH 3 using concentrated hydrochloric acid. The resultant precipitate was extracted with ether (3×50 mL). The combined ethereal extracts were washed with water (50 mL) and brine (50 mL), dried over magnesium sulphate, concentrated under reduced pressure and recrystallised from ethyl acetate/hexane to give product as an amorphous white solid (2.7 g, 82%): mp 164-165° C.; 1H NMR (CDCl3) δ 6.65 (q, 1H), 2.73 (s, 3H), 2.43 (d, 3H); EI/MS 156 m/e (M+); IR (liq film) 1664 cm−1; Calcd for C7H8O2S: C, 53.8; H, 5.16; Found: C, 53.8; H, 5.11.

reactant | n-Butyllithium | 46 mmol, 2.5 M, 18.6 mL | C(CCC)[Li]
reactant | 4-methylthiophene-3-carboxylic acid | 21 mmol, 3.0 g | CC=1C(=CSC1)C(=O)O | C6H6O2S
reactant | iodomethane | 53 mmol, 3.28 mL, 7.49 g | IC | CH3I
solvent | tetrahydrofuran | 35 mL | O1CCCC1 | C4H8O
product | 2,4-Dimethylthiophene-3-carboxylic acid | 2.7 g, 82% | CC=1SC=C(C1C(=O)O)C | C7H8O2S
